US07105563B2
4-(1-Hydroxyethyl)-1-(dimethylethoxycarbonyl)imidazole (8.7 g, 41 mmol) was dissolved in methylene chloride (100 mL) and MnO2 (10.7 g, 123 mmol) was added. The resulting reaction mixture was stirred overnight at ambient temperature. The reaction mixture was filtered, concentrated, and purified with silica column chromatography to afford 4 g of 4-acetyl-1-(dimethylethoxycarbonyl)imidazole and unreacted starting material.

reactant | 4-(1-Hydroxyethyl)-1-(dimethylethoxycarbonyl)imidazole | 41 mmol, 8.7 g | OC(C)C=1N=CN(C1)C(=O)OC(C)(C)C | C10H16N2O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 123 mmol, 10.7 g | O=[Mn]=O
product | 4-acetyl-1-(dimethylethoxycarbonyl)imidazole | 4 g | C(C)(=O)C=1N=CN(C1)C(=O)OC(C)(C)C | C10H14N2O3
